US05595995
(+)-(R)-1-(3-Pyridyl)ethyl 1-adamantanecarboxylate
The method followed that described in Example 1, but using (+)-(R)-1-(3-pyridyl)ethanol [87% ee; prepared by asymmetric reduction of 3-acetylpyridine with (+)-B-chlorodiisopinocampheyl borane, J. Chandrasekharan, P. V. Ranachandran and H. C. Brown, J. Org. Chem., 50, 5446-5448 (1985)] (0.62 g, 5.0 mmol) in THF (20 ml), n-butyllithium (2.5 M; 2.0 ml, 5.0 mmol) in hexane, and 1-adamantanecarbonyl chloride (1.09 g, 5.5 mmol) in THF (5 ml). Chromatography, on elution with ether-petrol-triethylamine 100:50:1, gave the title compound (1.16 g, 81%) as an oil. [α]D +29.9° (c 2, MeOH), 87% ee. Recrystallisation of the (-)-(1R)-10-camphorsulfonate salt from ethyl acetate, and reliberation of the free-base, afforded the title compound with 98% ee, [α]D +33.7° (c 2, MeOH). IR νmax 1728 cm-1 ; 1H-NMR (CDCl3) δ1.54 (3H, d, J 6.5 Hz, CHCH3), 1.72 and 1.90 (12H, 2s, adamantyl CH2), 2.03 (3H, s, adamantyl CH), 5.88 (1H, q, J 6.5 Hz, CHCH3), 7.30 (1H, m, Py 5-H), 7.65 (1H, m, Py 4-H), 8.56 (1H, m, Py 6-H), 8.63 (1H, m, Py 2-H); MS m/z 285 (M+). Anal. Calcd: C, 75.76; H, 8.12; N, 4.91. Found: C, 75.30; H, 8.18; N, 4.46%.

reactant | (+)-(R)-1-(3-pyridyl)ethanol | 5.0 mmol, 0.62 g | N1=CC(=CC=C1)[C@@H](C)O | C7H9NO
reactant | n-butyllithium | 5.0 mmol, 2.5 M, 2.0 ml | C(CCC)[Li]
reactant | 1-adamantanecarbonyl chloride | 5.5 mmol, 1.09 g | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (+)-(R)-1-(3-Pyridyl)ethyl 1-adamantanecarboxylate | 1.16 g, 81% | C12(CC3CC(CC(C1)C3)C2)C(=O)O[C@H](C)C=2C=NC=CC2 | C18H23NO2
